US04802913
A mixture of dimethyl(m-phenylbenzyl)malonate (1.00 g) and lithium chloride (0.285 g) in water (0.12 ml) and dimethylsulphoxide (8.5 ml) was heated at 165° C. for 3 hours then allowed to cool, poured into water and extracted with ether. The extracts were washed with water, dried, concentrated, and chromatographed using 10% ether in petrol as eluant to give methyl 3-(m-phenylphenyl)-propanoate (0.65 g, 81%) as a colourless oil which solidified on standing, melting point 29°-30° C.

reactant | dimethyl(m-phenylbenzyl)malonate | 1.00 g | COC(C(C(=O)OC)CC1=CC(=CC=C1)C1=CC=CC=C1)=O | C18H18O4
reactant | lithium chloride | 0.285 g | [Cl-].[Li+]
solvent | water | 0.12 ml | O | H2O
solvent | dimethylsulphoxide | 8.5 ml | CS(=O)C | C2H6OS
product | methyl 3-(m-phenylphenyl)-propanoate | 0.65 g, 81% | C1(=CC=CC=C1)C=1C=C(C=CC1)CCC(=O)OC | C16H16O2
